US07825150B2
6.11. Synthesis of 3-chloro-N′-(1-(4-((1R,2S,3R)-1,2,3,4-tetrahydroxybutyl)-1H-imidazol-2-yl)ethylidene)benzohydrazide
1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone (194 mg, 0.84 mmol) was suspended in ethanol (4 ml) and water (1 ml). 3-Chlorobenzoic acid hydrazide (170 mg, 1.0 mmol, 1.2 eq.) and hydrochloric acid (one drop, 12 N) were added, and the suspension was stirred at 50° C. for 48 hours. LCMS analysis indicated the formation of the product and the absence of starting material. The reaction mixture was cooled to room temperature, and partially concentrated in vacuo. The resulting white precipitate was collected and washed with ethanol to yield the product, as a ˜3:1 E:Z mixture, as a white solid: 108 mg (33%).

reactant | 1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone | 0.84 mmol, 194 mg | O[C@@H]([C@@H]([C@@H](CO)O)O)C=1N=C(NC1)C(C)=O | C9H14N2O5
reactant | 3-Chlorobenzoic acid hydrazide | 1.0 mmol, 170 mg, 1.2 eq. | ClC=1C=C(C(=O)NN)C=CC1 | C7H7ClN2O
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
catalyst | hydrochloric acid | 12 N, one drop | Cl | ClH
product | 3-chloro-N′-(1-(4-((1R,2S,3R)-1,2,3,4-tetrahydroxybutyl)-1H-imidazol-2-yl)ethylidene)benzohydrazide | ClC=1C=C(C(=O)NN=C(C)C=2NC=C(N2)[C@H]([C@@H]([C@@H](CO)O)O)O)C=CC1 | C16H19ClN4O5
